US05166188
3-(N-Methyl-N-(2-(3,5-dimethoxyphenyl)ethyl)amino)butylamine
3.33 g of N-methyl-N-(4-(tert-butyldimethylsiloxy)-butan-2-yl)-[2-(3,5-dimethoxyphenyl)ethyl]amine was dissolved in 13 ml of tetrahydrofuran to obtain a solution. 13 ml of a solution of tetra-n-butylammonium fluoride in tetrahydrofuran (1 mmol/ml) was slowly added dropwise to the solution. The obtained mixture was stirred at a room temperature for 3 hours and distilled to remove the solvent. The residue was extracted with ether thrice and the ether phase was dried over anhydrous sodium sulfate and concentrated under a reduced pressure. The residue was dissolved in 25 ml of tetrahydrofuran, followed by the addition of 1.29 g of phthalimide and 2.29 g of triphenylphosphine. 1.52 g of diethyl azodicarboxylate was slowly added to the obtained mixture at a room temperature. The obtained mixture was stirred overnight and distilled to remove the solvent. The residue was made acidic with 0.5N hydrochloric acid and washed with ether. The aqueous phase was made basic with lithium hydroxide and extracted with ethyl acetate. The ethyl acetate phase was dried over anhydrous sodium sulfate and the filtrate was concentrated under a reduced pressure to obtain a residue. This residue was dissolved in 20 ml of ethanol, followed by the addition of 200 mg of hydrazine monohydrate. The obtained mixture was heated under reflux for 2 hours and cooled. The white precipitate thus formed was filtered out and the filtrate was concentrated under a reduced pressure, followed by the addition of 20 ml of a 10% solution of sodium hydroxide. The obtained mixture was extracted with chloroform thrice. The chloroform phase was washed with a saturated aqueous solution of common salt, dried over anhydrous sodium sulfate and concentrated under a reduced pressure to obtain 830 mg of the title compound as a yellow oil (yield: 36%).

reactant | N-methyl-N-(4-(tert-butyldimethylsiloxy)-butan-2-yl)-[2-(3,5-dimethoxyphenyl)ethyl]amine | 3.33 g | CN(C(C)CCO[Si](C)(C)C(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C21H39NO3Si
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrazine monohydrate | 200 mg | O.NN
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mmol/ml | O1CCCC1 | C4H8O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-(N-Methyl-N-(2-(3,5-dimethoxyphenyl)ethyl)amino)butylamine | 830 mg, yield: 36% | CN(CCC1=CC(=CC(=C1)OC)OC)C(CCN)C | C15H26N2O2
